US07176217B2
To a solution of ethyl (1S, 3R, 4R)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate (601 mg, 2.20 mmol) in tetrahydrofuran (12 ml)-methanol (6 ml) was added 1N sodium hydroxide (12 ml) and the mixture was stirred at 65° C. for 21 hours. The reaction mixture was neutralized and the water phase was concentrated. The residue was dissolved in chloroform and dried over magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (0–15% methanol/chloroform), to give (1S, 3R, 4R)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylic acid (445 mg, 83%).

reactant | ethyl (1S, 3R, 4R)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate | 2.20 mmol, 601 mg | C1(=CC=CC=C1)[C@H](C)N1[C@H]2CC[C@@H]([C@@H]1C(=O)OCC)C2 | C17H23NO2
reactant | methanol | 6 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | (1S, 3R, 4R)-2-[(S)-1-phenylethyl]-2-azabicyclo[2.2.1]heptane-3-carboxylic acid | 445 mg, 83% | C1(=CC=CC=C1)[C@H](C)N1[C@H]2CC[C@@H]([C@@H]1C(=O)O)C2 | C15H19NO2
